US08022062B2
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-[5-(4-fluorophenylethynyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.0 g, 1.9 mmol), Lindlar catalyst (240 mg), and quinoline (0.8 mL) in methanol (30 mL). Degas, purge with nitrogen, and stir under a balloon of hydrogen for 36 h. Filter the mixture and wash the catalyst with additional methanol. Concentrate the filtrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (8:1) to give (Z)-3-tert-butoxycarbonyl-7-chloro-6-{5-[2-(4-fluoro-phenyl)-vinyl]-pyridin-2-ylmethylthio}-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a clear oil (630 mg, 63%). MS (APCI+) m/z: 525 (M+H), 425 (M+H−Boc)+. Use a method similar to the General Procedure 1-4 to give the title compound as a pale yellow solid. MS (APCI+) m/z: 425 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-[5-(4-fluorophenylethynyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.9 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)C#CC2=CC=C(C=C2)F | C29H28ClFN2O2S
reactant | quinoline | 0.8 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar catalyst | 240 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 30 mL | CO | CH4O
product | (Z)-3-tert-butoxycarbonyl-7-chloro-6-{5-[2-(4-fluoro-phenyl)-vinyl]-pyridin-2-ylmethylthio}-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 630 mg, 63% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)\C=C/C2=CC=C(C=C2)F | C29H30ClFN2O2S
